US04661636
(f) 2-aminomethyl-4-(1,1-dimethylethyl)-6-methylsulfonylphenol hydrochloride
6.3 g (0.028 mol) of 2-chloro-N-[5-(1,1-dimethylethyl)-2-hydroxy-3-methylsulfonylbenzyl]acetamide in a mixture of 20 ml of concentrated hydrochloric acid and 40 ml of ethanol are boiled under reflux for 16 hours. The precipitated product is filtered off with suction and recrystallized from ethanol.

reactant | 2-chloro-N-[5-(1,1-dimethylethyl)-2-hydroxy-3-methylsulfonylbenzyl]acetamide | 0.028 mol, 6.3 g | ClCC(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)C)O | C14H20ClNO4S
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-aminomethyl-4-(1,1-dimethylethyl)-6-methylsulfonylphenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)C)O | InChI=1S/C12H19NO3S.ClH/c1-12(2,3)9-5-8(7-13)11(14)10(6-9)17(4,15)16;/h5-6,14H,7,13H2,1-4H3;1H
